US08440651B2
2-(4-((2-(5-fluoro-1H-indol-4-yl)-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)piperazin-1-yl)-2-methylpropanamide 121
2-(4-((2-Chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)piperazin-1-yl)-2-methylpropanamide (123 mg) was reacted with 1-(tert-butyldimethylsilyl)-5-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole via General Procedure A to produce 114 mg of 121 following reverse phase HPLC purification.

reactant | 2-(4-((2-Chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)piperazin-1-yl)-2-methylpropanamide | 123 mg | ClC=1N=C(C2=C(N1)C=CC(=N2)CN2CCN(CC2)C(C(=O)N)(C)C)N2CCOCC2 | C20H28ClN7O2
reactant | 1-(tert-butyldimethylsilyl)-5-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | [Si](C)(C)(C(C)(C)C)N1C=CC2=C(C(=CC=C12)F)B1OC(C(O1)(C)C)(C)C | C20H31BFNO2Si
product | 2-(4-((2-(5-fluoro-1H-indol-4-yl)-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)piperazin-1-yl)-2-methylpropanamide | FC=1C(=C2C=CNC2=CC1)C=1N=C(C2=C(N1)C=CC(=N2)CN2CCN(CC2)C(C(=O)N)(C)C)N2CCOCC2 | C28H33FN8O2
